US05344843
As in Example 306, a solution of (E)-alpha-(ethoxyimino)-5-[2-(2-naphthalenyloxy) ethoxy]-2-thiopheneacetic acid ethyl ester (0.131 g) in methanol (2 mL) and tetrahydrofuran (2 mL) was treated with 4N sodium hydroxide (0.5 mL) and the stirred mixture was heated at 55° C. for 45 minutes. After the usual work up, the isolated product was crystallized from ethyl acetate-hexane to afford 0.062 g of (E)-alpha-(ethoxyimino)-5-[2-(2-naphthalenyloxy)ethoxy]-2-thiopheneacetic acid, mp 17°-108° C. (dec.).

reactant | (E)-alpha-(ethoxyimino)-5-[2-(2-naphthalenyloxy) ethoxy]-2-thiopheneacetic acid ethyl ester | 0.131 g | C(C)OC(\C(\C=1SC(=CC1)OCCOC1=CC2=CC=CC=C2C=C1)=N/OCC)=O | C22H23NO5S
reactant | sodium hydroxide | 4N, 0.5 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (E)-alpha-(ethoxyimino)-5-[2-(2-naphthalenyloxy)ethoxy]-2-thiopheneacetic acid | 0.062 g | C(C)O\N=C(/C(=O)O)\C=1SC(=CC1)OCCOC1=CC2=CC=CC=C2C=C1 | C20H19NO5S
